Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Chest discomfort
 
Major Surgical or Invasive Procedure:
Coronary artery disease s/p Coronary artery bypass graft x 3 
(LIMA to LAD, SVG to OM, SVG to PDA), Right Carotid 
endarterectomy ___

 
History of Present Illness:
___ w h/o CAD s/p stents to the Right Coronary Artery p/t ___ ED w c/o chest discomfort.  Exertional chest discomfort
had been progressing over the previous weeks and just prior to
admission, he had an episode that woke him from sleep. 
Additionally- he experienced 15 min. of vision loss in the right
eye and was found to have a TIA.  Carotid ultrasound revealed
stenosis in the ___ and ___ was scheduled for CEA on ___. 
Cardiac cath revealed severe 3 vessel and left main CAD.  He is
transferred for surgical evaluation.  

 
Past Medical History:
CAD s/p stents at ___ ___
Hypertension
Obesity
Diabetes Mellitus
OSA-does not use CPAP
Hip Arthritis-affects walking
Short term memory loss pt states is from medication
Skin cancer
 
Social History:
___
Family History:
Family History:Premature coronary artery disease
 
Physical Exam:
Pulse:69  Resp:  O2 sat: 93%RA
B/P  ___ 
Height:  ___   Weight: 269lb

___, NAD, pleasant
Skin: Dry [x] intact []
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM []
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+[x]
Extremities: Warm [x], well-perfused [x]  Edema [] _____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:   Left:
DP           Right:   Left:
___           Right:   Left:
Radial       Right:2+   Left:2+

Carotid Bruit        Right:1+ bruit noted    Left:none
 
Pertinent Results:
___ 03:45PM BLOOD WBC-4.9 RBC-4.81 Hgb-13.8 Hct-41.9 MCV-87 
MCH-28.7 MCHC-32.9 RDW-12.7 RDWSD-40.4 Plt ___
___ 06:20AM BLOOD WBC-6.5 RBC-5.00 Hgb-14.6 Hct-43.2 MCV-86 
MCH-29.2 MCHC-33.8 RDW-13.0 RDWSD-40.5 Plt ___
___ 03:45PM BLOOD Glucose-228* UreaN-16 Creat-1.2 Na-138 
K-4.9 Cl-100 HCO3-25 AnGap-18
___ 06:20AM BLOOD Glucose-206* UreaN-16 Creat-1.2 Na-136 
K-4.0 Cl-97 HCO3-21* AnGap-22*

Echo: ___
There is mild symmetric left ventricular hypertrophy. There is 
mild (non-obstructive) focal hypertrophy of the basal septum. 
There is no resting LVOT gradientThe left ventricular cavity 
size is normal. There is mild regional left ventricular systolic 
dysfunction Overall left ventricular systolic function is low 
normal (LVEF 50-55%). The inferoseptal wall is hypokinetic Right 
ventricular chamber size is normal with borderline normal free 
wall function. The ascending, transverse and descending thoracic 
aorta are normal in diameter and free of atherosclerotic plaque 
. There is no aortic valve stenosis. Trace aortic regurgitation 
is seen. Trivial mitral regurgitation is seen.There is mild 
tricuspid regurgitation 
 Post bypass
 The LVEF is 50-55% The septal wall motion is improved.The right 
ventricular function is normal >the thoracic aorta is intact. 
The rest of the exam is unchanged  
 
Brief Hospital Course:
Mr. ___ was brought to the Operating Room on ___ where the 
he underwent a right carotid endarterectomy and coronary artery 
bypass grafting x3(LIMA-LAD,SVG-OM,SVG-PDA). Please see the 
operative note for details. Overall the he tolerated the 
procedure well and post-operatively was transferred to the CVICU 
in stable condition for recovery and invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable.  Beta blocker was initiated and the 
patient was gently diuresed toward the preoperative weight.  The 
patient was transferred to the telemetry floor for further 
recovery.  Chest tubes and pacing wires were discontinued 
without complication. The patient had a brief episode of afib 
and was treated with IVB amiodarone then placed on po amiodarone 
and Lopressor dose was increased. Coumadin therapy was not 
initiated due to the brief duration of afib. He remained in 
sinus rhythm for the remainder of his hospital course. The 
patient was evaluated by the physical therapy service for 
assistance with strength and mobility.  By the time of discharge 
on POD #5 the patient was ambulating with assistance, the wound 
was healing and pain was controlled with oral analgesics. The 
patient continued to have 1+ lower extremity edema and will 
continue on Lasix course at rehab. The patient was discharged to 
rehab ___, ___, 
___, ___
in good condition with appropriate follow up instructions.
 
Medications on Admission:
Metformin 1000mg bid
losartan 100mg daily
pravastatin 20mg daily
glyburide 5mg bid
metoprolol 25mg daily
imdur 30mg daily
aspirin 81mg daily
 
Discharge Medications:
1.  Acetaminophen 650 mg PO/PR Q4H:PRN pain or temperature >38.0 
 
2.  Amiodarone 400 mg PO BID 
take 400mg bid x 4 days then 400mg daily for 7 days then 200mg 
ongoing  
3.  Atorvastatin 80 mg PO QPM  
4.  Bisacodyl ___AILY:PRN constipation  
5.  Docusate Sodium 100 mg PO BID  
6.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
7.  Furosemide 40 mg PO BID 
take this medication until the swelling in your legs has 
resolved.   
8.  Glargine 25 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
9.  Lactulose 15 mL PO BID constipation  
10.  Metoprolol Tartrate 25 mg PO TID  
11.  Milk of Magnesia 30 mL PO DAILY  
12.  Omeprazole 20 mg PO DAILY  
13.  Ondansetron 4 mg IV Q8H:PRN nausea  
14.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*45 Tablet Refills:*0 
15.  Polyethylene Glycol 17 g PO DAILY  
16.  Potassium Chloride 20 mEq PO BID 
Hold for K >4.5  
17.  Senna 8.6 mg PO BID:PRN constipation  
18.  GlyBURIDE 10 mg PO BID  
19.  Losartan Potassium 50 mg PO DAILY  
20.  Aspirin EC 81 mg PO DAILY  
21.  MetFORMIN (Glucophage) 1000 mg PO BID  
22.  Pravastatin 20 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
CAD s/p stents at ___ ___
Hypertension
Obesity
Diabetes Mellitus
OSA-does not use CPAP
Hip Arthritis-affects walking
Short term memory loss pt states is from medication
Skin cancer

 
Discharge Condition:
Alert and oriented x3 nonfocal
 Ambulating, gait steady
 Sternal pain managed with oral analgesics
 Sternal Incision - healing well, no erythema or drainage

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
 Please NO lotions, cream, powder, or ointments to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
 
Please call with any questions or concerns ___
 
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___